US04732912
A stirred mixture of 3,4-dihydro-6-methoxy-2-p-methoxyphenylnaphthalen-1(2H)-one (10 g.), ethyl bromoacetate (17.8 g.), zinc (11.6 g.), benzene (200 ml.) and one crystal of iodine was heated under reflux under an atmosphere of argon for 10 minutes, allowed to continue to boil until the exothermic reaction subsided, heated again under reflux for a further 10 minutes and then cooled to laboratory temperature. Saturated aqueous ammonium chloride solution (100 ml.) was added, the mixture was filtered and the organic layer of the filtrate was separated, dried and evaporated to dryness. A 10% palladium-on-charcoal catalyst (2 g.) was added to a solution of the residue (13.1 g.) in ethyl acetate (300 ml.) and the mixture was stirred under an atmosphere of hydrogen for 3 hours, filtered, and rehydrogenated with fresh catalyst (2 g.) for 18 hours. The mixture was filtered, the filtrate was evaporated to dryness and the residue was purified by chromatography on a silica gel column using a 25: 1 v/v mixture of toluene and ethyl acetate. The ethyl [(1RS,2RS)-6-methoxy-2-p-methoxyphenyl-1,2,3,4-tetrahydronaphth-1-yl]acetate thus obtained was reduced with lithium aluminium hydride (4.4 g.) by a similar process to that described in Example 7, and the ethanol thus obtained (m.p. 98°-99° C.) was oxidised with pyridinium chlorochromate (8.6 g.) by a similar process to that described in the 6th paragraph of Example 2. There was thus obtained the desired acetaldehyde, m.p. 101°-103° C.

reactant | 3,4-dihydro-6-methoxy-2-p-methoxyphenylnaphthalen-1(2H)-one | 10 g | COC=1C=C2CCC(C(C2=CC1)=O)C1=CC=C(C=C1)OC | C18H18O3
reactant | ethyl bromoacetate | 17.8 g | BrCC(=O)OCC | C4H7BrO2
reactant | iodine | II | I2
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
catalyst | zinc | 11.6 g | [Zn] | Zn
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | ethyl [(1RS,2RS)-6-methoxy-2-p-methoxyphenyl-1,2,3,4-tetrahydronaphth-1-yl]acetate | COC=1C=C2CCC(C(C2=CC1)CC(=O)OCC)C1=CC=C(C=C1)OC | C22H26O4
